US05514643
Synthesis of 2-ethylamino-4-ethyl-thiazole-5-carboxylic acid (cyano-thiophen-2-yl-methyl)-amide (37)
1.0g of 2-bromo-4-ethyl-thiazole-5-carboxylic acid (cyano-thiophen-2-yl-methyl)-amide, 0.40ml of triethylamine and 0.55ml of ethylamine were added to 10ml of tetrahydrofuran. The reaction mixture was stirred under reflux for 4 hours and then treated according to the same procedure as EXAMPLE 10 to obtain 0.63g (Yield 70%) of the title compound.

reactant | 2-bromo-4-ethyl-thiazole-5-carboxylic acid (cyano-thiophen-2-yl-methyl)-amide | 1.0g | C(#N)C(C=1SC=CC1)NC(=O)C1=C(N=C(S1)Br)CC | C12H10BrN3OS2
reactant | triethylamine | 0.40ml | C(C)N(CC)CC | C6H15N
reactant | ethylamine | 0.55ml | C(C)N | C2H7N
solvent | tetrahydrofuran | 10ml | O1CCCC1 | C4H8O
product | 2-ethylamino-4-ethyl-thiazole-5-carboxylic acid (cyano-thiophen-2-yl-methyl)-amide | 0.63g, Yield 70% | C(#N)C(C=1SC=CC1)NC(=O)C1=C(N=C(S1)NCC)CC | C14H16N4OS2
